US05702641
Toluene (450 ml) was added to the above ethyl 2-(4-(1,3-dioxan-2-ylethyl)cyclohexylethanoate (30.2 g, 106 mmol) in a nitrogen gas atmosphere, followed by cooling the mixture down to -65° C., dropwise adding to the solution, a toluene solution of diisobutylaluminum hydride (1.01 mol/l) 120 ml (121 mmol), stirring the mixture at the same temperature for 45 minutes, dropwise adding a saturated aqueous solution of ammonium chloride (33 ml), heating the mixture up to room temperature, adding ether (100 ml) to the reaction solution, stirring the mixture at the temperature for 1.5 hours, adding magnesium sulfate (10 g), stirring the mixture for one hour, filtering off the reaction solution, washing the filtrate with water, drying over magnesium sulfate, and distilling off the solvent, to obtain 2-(4-(1,3-dioxan-2-ylethyl)cyclohexyl)ethanol (22.0 g, 91.5 mmol). Yield: 86.3%.

reactant | 4-(1,3-dioxan-2-ylethyl)cyclohexylethanoate | 106 mmol, 30.2 g | O1C(OCCC1)CCC1CCC(CC1)CC(=O)[O-]
reactant | diisobutylaluminum hydride | 121 mmol, 1.01 mol/l, 120 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 33 ml | [Cl-].[NH4+]
reactant | magnesium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(1,3-dioxan-2-ylethyl)cyclohexyl)ethanol | 91.5 mmol, 22.0 g, Yield: 86.3% | O1C(OCCC1)CCC1CCC(CC1)CCO | C14H26O3
